US05892104
Sodium hydride (60% in mineral oil) (5.4 gm) was added to 60 gm toluene in a reaction flask and stirred under nitrogen. 3,3,5-Trimethyl-4-cyclohepten-1-ol (15.4 gm) was added over 10 minutes at room temperature and stirred for 25 minutes. Iodoethane (23.4 gm) was next added over five minutes. The reaction was heated to 72° C. over 1.5 hours and then four hours at 112° C. The crude oil was washed once with 50 mL saturated sodium bicarbonate solution and distilled through a short Vigreux column. A heart cut fraction, 3,3,5-trimethyl-cyclohepten-1-yl ethyl ether, was obtained that weighed 14.9 gm and had a boiling point of 89° C. at 10 mm pressure. Its GC purity was 94%. The fraction was evaluated for its odor quality and characterized as having fresh diffusive citrus lime notes as well as fruity-peach/prune-rose floral.

reactant | Sodium hydride | 5.4 gm | [H-].[Na+]
reactant | 3,3,5-Trimethyl-4-cyclohepten-1-ol | 15.4 gm | CC1(CC(CCC(=C1)C)O)C | C10H18O
reactant | Iodoethane | 23.4 gm | ICC | C2H5I
solvent | toluene | 60 gm | C1(=CC=CC=C1)C | C7H8
product | 3,3,5-trimethyl-cyclohepten-1-yl ethyl ether | C(C)OC1=CC(CC(CC1)C)(C)C | C12H22O
